US04062861
The reaction is effected as in Example 171 by using 1-methyl-1-butyl-3-(5-t-butyl-3-isoxazolyl)urea and methyl iodide to give 1,3-dimethyl-1-butyl-3-(5-t-butyl-3-isoxazolyl)urea as an oil boiling at 130° to 135° C (bath temperature)/0.25 mm Hg.

reactant | 1-methyl-1-butyl-3-(5-t-butyl-3-isoxazolyl)urea | CN(C(=O)NC1=NOC(=C1)C(C)(C)C)CCCC | C13H23N3O2
reactant | methyl iodide | CI | CH3I
product | 1,3-dimethyl-1-butyl-3-(5-t-butyl-3-isoxazolyl)urea | CN(C(=O)N(C1=NOC(=C1)C(C)(C)C)C)CCCC | C14H25N3O2
